US07977358B2
A] rac-2-Acetyl-4-methoxy-3-oxo-butyric acid ethyl ester
In analogy to the procedure described in Intermediate 11A], ethyl acetoacetate and methoxyacetylchloride gave the crude title compound in quantitative yield as yellow oil. MS: 202.9 (MH+).

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | methoxyacetylchloride | COCC(=O)Cl | C3H5ClO2
product | rac-2-Acetyl-4-methoxy-3-oxo-butyric acid ethyl ester | quantitative yield | C(C)OC(C(C(COC)=O)C(C)=O)=O | C9H14O5
